** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/testbench/tb_cdac_switch_1b.sch
**.subckt tb_cdac_switch_1b
V_VDD net1 net2 3.3
V_VREF net3 net4 3.3
V_BIT net5 net6 pulse(0 3.3 1n 0.1n 0.1n 5n 10n)
x1 bit vref vdd vss bot cdac_switch_1b
Cload bot 0 10f
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.GLOBAL vdd vss
V_VSS vss 0 0
.control
tran 10p 30n
set filetype=ascii
write tb_cdac_switch_1b.raw
quit
.endc

**** end user architecture code
**.ends

* expanding   symbol:  sar_adc/blocks/cdac/cdac_switch_1b.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sch
.subckt cdac_switch_1b bit vref vdd vss bot
*.ipin bit
*.iopin vref
*.iopin vdd
*.iopin vss
*.iopin bot
XM1 bit_b bit vdd vdd pfet_03v3 L=0.28u W=4.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 bit_b bit vss vss nfet_03v3 L=0.28u W=2.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 bot bit_b vref vdd pfet_03v3 L=0.28u W=4.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 bot bit vref vss nfet_03v3 L=0.28u W=2.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 bot bit vss vdd pfet_03v3 L=0.28u W=4.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 bot bit_b vss vss nfet_03v3 L=0.28u W=2.0u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
